US05556864
15(a) 2-{2-[4-(2-Methoxyphenyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 230 mg of 2-[4-(2-methoxyphenyl)butyl]phenol (prepared as described in Preparation 4), 101 mg of potassium t-butoxide and 246 mg of epibromohydrin were reacted in 15 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 260 mg (yield 93%) of the title compound as an oil.

reactant | 2-[4-(2-methoxyphenyl)butyl]phenol | 230 mg | COC1=C(C=CC=C1)CCCCC1=C(C=CC=C1)O | C17H20O2
reactant | potassium t-butoxide | 101 mg | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 246 mg | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(2-Methoxyphenyl)butyl]phenoxymethyl}oxirane | 260 mg, yield 93% | COC1=C(C=CC=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C20H24O3
